US07939531B2
A solution of 1-(2-ethynyl-5H-pyrrolo[2,3-b]pyrazin-7-yl)-2,2-dimethyl-propan-1-one (0.100 g, 0.44 mmol), benzyl azide (0.055 mL, 0.44 mmol), CuSO4 (0.007 g, 0.04 mmol), and L-ascorbic acid (0.078 g, 0.44 mmol) in 3 mL of tert-butanol and 3 mL of water was stirred for 1.5 h, then diluted with 30 mL of water and extracted with 100 mL of ethyl acetate. The organic layer was dried over MgSO4, filtered and concentrated to a residue. Silica gel chromatography (0->50% EtOAc/hexanes) afforded 0.036 g (23%) of 1-[2-(1-benzyl-1H-[1,2,3]triazol-4-yl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one as an off-white solid. MS: 361 M+1, M.P. 235.0-237.0° C.

reactant | 1-(2-ethynyl-5H-pyrrolo[2,3-b]pyrazin-7-yl)-2,2-dimethyl-propan-1-one | 0.44 mmol, 0.100 g | C(#C)C=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O | C13H13N3O
reactant | benzyl azide | 0.44 mmol, 0.055 mL | C(C1=CC=CC=C1)N=[N+]=[N-] | C7H7N3
reactant | L-ascorbic acid | 0.44 mmol, 0.078 g | O=C1C(O)=C(O)[C@H](O1)[C@@H](O)CO | C6H8O6
solvent | tert-butanol | 3 mL | C(C)(C)(C)O | C4H10O
solvent | water | 3 mL | O | H2O
solvent | water | 30 mL | O | H2O
catalyst | CuSO4 | 0.04 mmol, 0.007 g | [O-]S(=O)(=O)[O-].[Cu+2]
product | 1-[2-(1-benzyl-1H-[1,2,3]triazol-4-yl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one | 0.036 g, 23% | C(C1=CC=CC=C1)N1N=NC(=C1)C=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O | C20H20N6O
